US06562811B1
To a stirred solution of 2-(6-amino-5,9-diazatricyclo[7.3.1.02,7]trideca-2,4,6-trien-4-yl)-3-(benzyloxy)phenol in 1,4-dioxane (2 mL) was added 4N HCl in dioxane (2 mL). The mixture was stirred at room temperature for 2 hrs. The resulted precipitate was collected by filtration, washed with acetonitril, and dried under reduced pressure to give 2-(6-amino-5,9-diazatricyclo[7.3.1.02,7]trideca-2,4,6-trien-4-yl)-3-(benzyloxy)phenol hydrochloride.(0.018 g, yield 19%).

reactant | 2-(6-amino-5,9-diazatricyclo[7.3.1.02,7]trideca-2,4,6-trien-4-yl)-3-(benzyloxy)phenol | NC=1N=C(C=C2C3CCCN(CC12)C3)C3=C(C=CC=C3OCC3=CC=CC=C3)O | C24H25N3O2
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-(6-amino-5,9-diazatricyclo[7.3.1.02,7]trideca-2,4,6-trien-4-yl)-3-(benzyloxy)phenol hydrochloride | yield 19% | Cl.NC=1N=C(C=C2C3CCCN(CC12)C3)C3=C(C=CC=C3OCC3=CC=CC=C3)O | InChI=1S/C24H25N3O2.ClH/c25-24-19-14-27-11-5-8-17(13-27)18(19)12-20(26-24)23-21(28)9-4-10-22(23)29-15-16-6-2-1-3-7-16;/h1-4,6-7,9-10,12,17,28H,5,8,11,13-15H2,(H2,25,26);1H
